US03994909
3-benzyl-4-N-n-propylcarbamyl-1,2,4-oxadiazolin-5-one ##SPC11##
8.8 parts of 3-benzyl-5-hydroxy-1,2,4-oxadiazole is stirred for 1 hour at room temperature with 4.3 parts of n-propyl isocyanate and 2 parts of triethylamine in 50 parts of dioxane. The reaction mixture is then poured into ice water, and the precipitated solid is suction filtered and recrystallized from alcohol. There is obtained 8.5 parts (65% of theory) of the desired product; m.p.: 74° C.

reactant | 3-benzyl-5-hydroxy-1,2,4-oxadiazole | C(C1=CC=CC=C1)C1=NOC(=N1)O | C9H8N2O2
reactant | n-propyl isocyanate | C(CC)N=C=O | C4H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-benzyl-4-N-n-propylcarbamyl-1,2,4-oxadiazolin-5-one | C(C1=CC=CC=C1)C1=NOC(N1C(NCCC)=O)=O | C13H15N3O3
